US04971982
1.62 g of 4-(trifluoromethyl)phenol, 1.53 g of 2-chloro-2-methyl-3-butyne and 10 g of potassium carbonate were heated at reflux in 50 ml of acetone. After 18, 42 and 66 hours further batches of 1.53 g of 2-chloro-2-methyl-3-butyne were added. 72 hours after the final addition the mixture was allowed to cool to room temperature and was partitioned between diethyl ether and water. The organic phase was washed with aqueous sodium hydroxide solution, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 5% (v/v) ethyl acetate/petroleum ether for the elution. 1.8 g of 4-(1,1-dimethyl-2-propynyloxy)trifluoromethylbenzene were obtained as a yellow oil.

reactant | 4-(trifluoromethyl)phenol | 1.62 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | 2-chloro-2-methyl-3-butyne | 1.53 g | ClC(C)(C#C)C | C5H7Cl
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-2-methyl-3-butyne | 1.53 g | ClC(C)(C#C)C | C5H7Cl
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(1,1-dimethyl-2-propynyloxy)trifluoromethylbenzene | 1.8 g | CC(C#C)(OC1=CC=C(C=C1)C(F)(F)F)C | C12H11F3O
